US20010018525A1
step 1 N-(8-Phenyl-octyl)-3,5-bis-(m-chlorophenyl)4-(2-hydroxyethoxy)-benzamide
To a flamed dried round bottom flask with 8-phenyloctyl amine (0.484 mL, 2.43 mmol) and THF (5 mL) cooled to 0 °C. was added n-BuLi (0.972 mL, 2.5 M in hexane, 2.43 mmol) dropwise over a 5 min. period. The resulting solution was allowed to stir 5 min. and then warmed to room temperature for 30 min. This solution was then added dropwise to a solution of 3,5-bis-(m-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester (0.300 g, 0.696 mmol) in THF (15 mL) at −20 °C. This final mixture was stirred at −20° C. for 15 min and then warmed to room temperature for 15 min. At this point, the reaction mixture was quenched with H2O (10 mL) and diluted with EtOAc (200 mL). The organic layer was washed with 1 N HCl (20 mL), sat. aq. NaHCO3 (20 mL), and brine (20 mL) and then dried (MgSO4). After concentration, the residue was purified by the Biotage Flash 40 apparatus (20 to 40% EtOAc/petroleum ether gradient) to afford the product (0.267 g, 65%) as a clear oil; 1H NMR (CDCl3) δ1.09-1.48 (m, 9H), 1.48-1.72 (m, 4H), 2.58 (t, J=6.8 Hz, 2H), 3.30-3.35 (m, 2H), 3.35-3.41 (m, 2H), 3.46 (dd, J=6.8, 13.0 Hz, 2H), 6.07-6.18 (m, 1H), 7.11-7.19 (m, 3H), 7.21-7.31 (m, 2H), 7.35-7.44 (m, 4H), 7.44-7.57 (m, 2H), 7.63 (s, 2H), 7.77 (s, 2H); mass spectrum [(+) ESI], m/z 590 (M)+.

reactant | 8-phenyloctyl amine | 2.43 mmol, 0.484 mL | C1(=CC=CC=C1)CCCCCCCCN | C14H23N
reactant | n-BuLi | 2.43 mmol, 2.5 M, 0.972 mL | [Li]CCCC
reactant | 3,5-bis-(m-chlorophenyl)-4-(2-hydroxyethoxy)benzoic acid ethyl ester | 0.696 mmol, 0.300 g | C(C)OC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)Cl)OCCO)C1=CC(=CC=C1)Cl)=O | C23H20Cl2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(8-Phenyl-octyl)-3,5-bis-(m-chlorophenyl)4-(2-hydroxyethoxy)-benzamide | 0.267 g, 65% | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)Cl)OCCO)C1=CC(=CC=C1)Cl)=O | C35H37Cl2NO3
